US08383631B2
3-chloro-1-(4-(4-methoxyphenyl)piperazin-1-yl)propan-1-one
1-(4-Methoxyphenyl)piperazine dihydrochloride (1.85 g, 6.976 mmol) was dissolved in methylene chloride. After adding triethylamine (1.9 mL, 13.952 mmol) dropwise at 0° C. and then dissolving, the mixture was stirred for 30 minutes. After adding 3-chloropropionyl chloride (0.67 mL, 6.976 mmol), the reaction solution was stirred at room temperature for 1 hour. After adding methanol, the reaction solution was extracted with methylene chloride. The organic layer was dried with desiccant and then filtered. The filtrate was concentrated and purified by column chromatography (EtOAc/hexane, 4:1). A target compound (1.76 g, 6.224 mmol, 89.3%) was yielded as white solid.

reactant | 1-(4-Methoxyphenyl)piperazine dihydrochloride | 6.976 mmol, 1.85 g | Cl.Cl.COC1=CC=C(C=C1)N1CCNCC1
reactant | triethylamine | 13.952 mmol, 1.9 mL | C(C)N(CC)CC | C6H15N
reactant | 3-chloropropionyl chloride | 6.976 mmol, 0.67 mL | ClCCC(=O)Cl | C3H4Cl2O
reactant | methanol | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-chloro-1-(4-(4-methoxyphenyl)piperazin-1-yl)propan-1-one | 6.224 mmol, 1.76 g, 89.3% | ClCCC(=O)N1CCN(CC1)C1=CC=C(C=C1)OC | C14H19ClN2O2
